US07897600B2
(E)-N′-(6-chloropyridazin-3-yl)-N,N-dimethylacetimidamide
Combine 6-chloropyridazin-3-amine (1.500 kg, 11.58 mol); 1,1-dimethoxy-N,N-dimethylethanamine (2.313 kg, 17.37 mol) and cyclopentyl methyl ether (8.25 L) then heat to 98° C. while distilling off the resulting methanol byproduct. After 4 h, the reaction mixture is cooled to ambient temperature and heptanes (11.2 L) is added to the reaction solution for crystallizing the product. The title compound is collected by filtration and is dried. (1.494 kg, 64.95%; mp=73° C.)

reactant | 6-chloropyridazin-3-amine | 11.58 mol, 1.500 kg | ClC1=CC=C(N=N1)N | C4H4ClN3
reactant | 1,1-dimethoxy-N,N-dimethylethanamine | 17.37 mol, 2.313 kg | COC(C)(N(C)C)OC | C6H15NO2
reactant | cyclopentyl methyl ether | 8.25 L | COC1CCCC1 | C6H12O
product | (E)-N′-(6-chloropyridazin-3-yl)-N,N-dimethylacetimidamide | ClC1=CC=C(N=N1)/N=C(\C)/N(C)C | C8H11ClN4
